US05128335
Using the method of Hazeldine et al., J. Chem. Soc., 125, 1431-41 (1924) a mixture of dimethylsulphate (145 μl, 1.53 mmol) and 4-m-bromophenyl imidazole (341 mg; 1.54 mmol) was stirred under N2 until the reaction mixture became extremely viscous. Toluene (150 μl) was added, and the mixture was heated at 100° C. for 1 hour. After cooling to ambient temperature, H2O (5 ml) was added, and the reaction mixture was brought to pH 9 with NaOH solution. It was then extracted with CH2Cl2 (2×10 ml). The organic layers were washed with brine, dried (MgSO4), and concentrated in vacuo to give 262 mg crude product mixed with starting material. Purification using preparative TLC on 2-1000μ Si Gel GF plates (eluting with 5% MeOH in CH2Cl2 and extracting with 10% MeOH in CH2Cl2) provided the product, 4-m-bromophenyl-1-methylimidazole (121 mg, 33% yield) as the least polar band.

reactant | dimethylsulphate | 1.53 mmol, 145 μl | COS(=O)(=O)OC | C2H6O4S
reactant | 4-m-bromophenyl imidazole | 1.54 mmol, 341 mg | BrC=1C=C(C=CC1)C=1N=CNC1 | C9H7BrN2
reactant | Toluene | 150 μl | C1(=CC=CC=C1)C | C7H8
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 5 ml | O | H2O
product | 4-m-bromophenyl-1-methylimidazole | 121 mg, 33% yield | BrC=1C=C(C=CC1)C=1N=CN(C1)C | C10H9BrN2
